US07501538B2
6-{(2S)-[1-carboxy-2-(4′-phenoxy-biphenyl-4-yl)-ethylcarbamoyl]-4-chloro-phenylamino}-hexanoic acid
(S)-6-{4-Chloro-2-[1-methoxycarbonyl-2-(4′-phenoxy-biphenyl-4-yl)-ethylcarbamoyl]-phenylamino}-hexanoic acid methyl ester was prepared following Procedure G using (S)-2-(2-amino-5-chloro-benzoylamino)-3-(4′-phenoxy-biphenyl-4-yl)propionic acid methyl ester (401 mg, 0.8 mmol), 6-oxo-hexanoic acid methyl ester (231 mg, 1.6 mmol), acetic acid (2.4 mmol), sodium triacetoxyborohydride (437 mg, 97%, 2 mmol) and DCE (6 mL). Purification by flash chromatography (ethyl acetate/hexanes 1:3) gave the title compound as yellow oil (418 mg).

reactant | (S)-2-(2-amino-5-chloro-benzoylamino)-3-(4′-phenoxy-biphenyl-4-yl)propionic acid methyl ester | 0.8 mmol, 401 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)NC(C1=C(C=CC(=C1)Cl)N)=O)=O | C29H25ClN2O4
reactant | 6-oxo-hexanoic acid methyl ester | 1.6 mmol, 231 mg | COC(CCCCC=O)=O | C7H12O3
reactant | acetic acid | 2.4 mmol | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2 mmol, 437 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 6 mL | ClCCCl | C2H4Cl2
product | (S)-6-{4-Chloro-2-[1-methoxycarbonyl-2-(4′-phenoxy-biphenyl-4-yl)-ethylcarbamoyl]-phenylamino}-hexanoic acid methyl ester | COC(CCCCCNC1=C(C=C(C=C1)Cl)C(N[C@@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)OC)=O)=O | C36H37ClN2O6
